US04045520
Dry hydrogen sulphide gas is passed for 10 minutes into a solution, cooled to 0° C., of 277 mg (1 mmol) of diethylphosphono-isocyanoacetic acid tert.-butyl ester in 5 ml of dry tetrahydrofurane (filtered through aluminum oxide). After adding a few crystals of copper-II acetylacetonate, the reaction vessel is closed and left to stand overnight at room temperature. The reaction mixture is filtered and the filtrate is evaporated in vacuo. The residue is chromatographed on silica gel thick layer plates with toluene/ethyl acetate, 1:1, and gives thioformamido-diethylphosphonoacetic acid tert.-butyl ester in the form of a colorless oil: IR spectrum (in methylene chloride): characteristic bands at 3:13; 3.35; 5.75; 7.01; 8.10; 8.70 and 9.75μ.

reactant | hydrogen sulphide | S | H2S
reactant | diethylphosphono-isocyanoacetic acid tert.-butyl ester | 1 mmol, 277 mg | C(C)(C)(C)OC(C([N+]#[C-])P(=O)(OCC)OCC)=O | C11H20NO5P
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
catalyst | copper | [Cu] | Cu
product | thioformamido-diethylphosphonoacetic acid tert.-butyl ester | C(C)(C)(C)OC(C(P(=O)(OCC)OCC)NC=S)=O | C11H22NO5PS
